US04177197
Preparation of dl-3-(3,5-dimethoxyphenyl)-2-methylpropionic acid ethylester
Ethylpropionate (10.2 g; 0.1 mol) was added dropwise to a solution of lithium-di-isopropylamide (0.1 mol) which was obtained by mixing at 0° C. under nitrogen 10 g di-isopropylamine in 100 ml dry tetrahydrofuran with n-butyllithium in hexane (45.5 ml; 2.2 M). After the addition of ethylpropionate (which was carried out at a temperature of -78° C.) the mixture was stirred at -78° C. for 10 minutes, whereafter a solution of 1,3-dimethoxybenzylbromide (23.0 g; 0.1 mol) in dry hexamethylphosphoric acid triamide (9 g) was added dropwise. The mixture was stirred at -70° C. for 10 minutes and then heated to 0° C. Water was added and the mixture was extracted with ether. The ether-extract was dried on Na2SO4 and the solvent was evaporated. Destillation of the residue in vacuum gave 19.4 g pure product (77% yield), boiling point 150°-155° C./0.2 mm.

reactant | Ethylpropionate | 0.1 mol, 10.2 g | C(C)OC(CC)=O | C5H10O2
reactant | lithium di-isopropylamide | 0.1 mol | [Li].C(C)(C)[N-]C(C)C
reactant | n-butyllithium | C(CCC)[Li]
reactant | 1,3-dimethoxybenzylbromide | 0.1 mol, 23.0 g | COC1(CBr)CC(=CC=C1)OC | C9H13BrO2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | hexane | 2.2 M, 45.5 ml | CCCCCC | C6H14
solvent | hexamethylphosphoric acid triamide | 9 g | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | Water | O | H2O
product | 3-(3,5-dimethoxyphenyl)-2-methylpropionic acid ethylester | 19.4 g, 77% yield | C(C)OC(C(CC1=CC(=CC(=C1)OC)OC)C)=O | C14H20O4
